US07759376B2
To a solution of methyl-N-[(4′-nitro-1,1′-biphenyl-4-yl)carbonyl]-L-valinate (0.70 g, 1.9 mmol) in 85% ethanol (20 mL) was added iron powder (1.09 g, 19.6 mmol) and 2N aqueous HCl solution (1.0 mL). The resulting mixture was heated at reflux for 2 h. The mixture was then filtered through a pad of Celite® and concentrated under reduced pressure. The residue was dissolved in dichloromethane and washed with water and brine, dried (Na2SO4), and concentrated under reduced pressure to afford methyl N-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]-L-valinate (0.58 g, 90%). 1H NMR (400 MHz, CD3OD) δ 1.03 (dd, 6H), 2.26 (m, 1H), 3.74 (s, 3H), 4.48 (d, 1H), 6.77 (d, 2H), 7.43 (d, 2H), 7.62 (d, 2H), 7.83 (d, 2H); LC-MS m/z 327.1 (MH+), retention time 2.27 minutes.

reactant | methyl-N-[(4′-nitro-1,1′-biphenyl-4-yl)carbonyl]-L-valinate | 1.9 mmol, 0.70 g | COC([C@@H](NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O | C19H20N2O5
reactant | HCl | 2N, 1.0 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | iron | 19.6 mmol, 1.09 g | [Fe] | Fe
product | methyl N-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]-L-valinate | 0.58 g, 90% | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N[C@@H](C(C)C)C(=O)OC | C19H22N2O3
